US07329679B2
6-[[5-Methoxy-1-(4-methylphenyl)-2-phenyl-3H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
40 mg of 6-[[5-methoxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid was dissolved in 2 ml of methanol, mixed with 1 drop of concentrated sulfuric acid, and the mixture was stirred for 2 hours. It was mixed with saturated potassium bicarbonate solution, diluted with water, extracted with ethyl acetate, the extracts were dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was crystallized from diisopropyl ether.

reactant | 6-[[5-methoxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid | 40 mg | COC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=C(C=C2)C)C=C1OCCCCCC(=O)O | C27H28N2O4
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | methanol | 2 ml | CO | CH4O
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-[[5-Methoxy-1-(4-methylphenyl)-2-phenyl-3H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C(=CC2=C(N(C(N2)C2=CC=CC=C2)C2=CC=C(C=C2)C)C1)OC)=O | C28H32N2O4
